US09388138B2
(E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenol
Aqueous sodium hydroxide (5%, 8.8 g), followed by water (88 mL) were added to a stirred solution of (E)-2-(2-(quinolin-2-yl)prop-1-enyl)phenyl acetate (2.2 g, 7.3 mmol, 1.0 eq.) in ethanol (110 mL). The resulting mixture was heated at 100° C. for 10 min. The mixture was allowed to cool down a little and the pH was adjusted to 7.0 by careful addition of aqueous hydrochloric acid (10%). The mixture was allowed to cool down to r.t. and was then placed in a freezer (−18° C.) over night. The precipitation formed was isolated by filtration yielding the product (1.35 g, 71%) as a tan solid; 1H NMR (400 MHz, DMSO-d6) δ 2.38 (s, 3H, CH3), 6.87 (t, J=7.5 Hz, 1H, Ar), 6.92 (d, J=7.5 Hz, 1H, Ar), 7.16 (t, J=7.5 Hz, 1H, Ar), 7.36 (d, J=7.0 Hz, 1H, Ar), 7.56 (t, J=7.0 Hz, 1H, Ar), 7.61 (s, 1H, C═CH), 7.74 (t, J=7.0 Hz, 1H, Ar), 7.95 (d, J=8.5 Hz, 2H, Ar), 8.00 (d, J=8.5 Hz, 1H, Ar), 8.34 (d, J=8.5 Hz, 1H, Ar), 9.66 (br s, 1H, OH).

reactant | sodium hydroxide | 8.8 g | [OH-].[Na+]
reactant | water | 88 mL | O | H2O
reactant | (E)-2-(2-(quinolin-2-yl)prop-1-enyl)phenyl acetate | 7.3 mmol, 2.2 g, 1.0 eq. | C(C)(=O)OC1=C(C=CC=C1)\C=C(/C)\C1=NC2=CC=CC=C2C=C1 | C20H17NO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | (E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenol | 1.35 g, 71% | N1=C(C=CC2=CC=CC=C12)/C(=C/C1=C(C=CC=C1)O)/C | C18H15NO
